US08865736B2
Trifluoromethanesulfonic acid cyclohex-1-enyl ester
To a solution of cyclohexanone (5.0 g, 51 mmol) in the 80 ml of DCM was added pyridine (4.48 ml, 56.0 mmol) and the resulting reaction mixture was cooled to −78° C. To the reaction mixture the solution of triflic anhydride (7.40 ml, 56.0 mmol) in 30 ml of DCM was added over the period of 1 h. Reaction mixture was stirred at 25° C. for 24 h. After the completion of the reaction mixture (TLC monitoring), the reaction mixture was evaporated to dryness under reduced pressure. The residue was triturated with n-pentane and decanted the organic layer, dried (Na2SO4), filtered and concentrated to give the desired product (5.0 g, 42%).

reactant | cyclohexanone | 51 mmol, 5.0 g | C1(CCCCC1)=O | C6H10O
reactant | pyridine | 56.0 mmol, 4.48 ml | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 56.0 mmol, 7.40 ml | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | Trifluoromethanesulfonic acid cyclohex-1-enyl ester | 5.0 g, 42% | C1(=CCCCC1)OS(=O)(=O)C(F)(F)F | C7H9F3O3S
